US07671054B1
(3) Preparation of 3-(3-Benzyl-ureido)-N-{2-(4-tert-butoxy-phenyl)-1-[(2,2-diethoxy-ethyl)-(1H-indazol-7-ylmethyl)-carbamoyl]-ethyl}-butyramide
To a solution of 2-Amino-3-(4-tert-butoxy-phenyl)-N-(2,2-diethoxy-ethyl)-N-(1H-indazol-7-ylmethyl)-propionamide in CH2Cl2 (50 mL) was added a solution of (3R)-3-(3-Benzyl-ureido)-butyric acid (1.44 g, 6.1 mmol), EDCI (1.17 g, 1.2 eq), HOBt (0.93 g, 1.2 eq), DIEA (2.13 mL, 12.2 mmol) in CH2Cl2 (100 mL) stirred for 40 min. The reaction mixture was stirred at room temperature for 14 h, and then diluted with EtOAc, washed with water and brine. The organic layer was dried with Na2SO4 and concentrated zin vacuo. The crude compound was used next step without further purification. MS ESI 701 (M+H), 723 (M+Na).

reactant | 2-Amino-3-(4-tert-butoxy-phenyl)-N-(2,2-diethoxy-ethyl)-N-(1H-indazol-7-ylmethyl)-propionamide | NC(C(=O)N(CC=1C=CC=C2C=NNC12)CC(OCC)OCC)CC1=CC=C(C=C1)OC(C)(C)C | C27H38N4O4
reactant | (3R)-3-(3-Benzyl-ureido)-butyric acid | 6.1 mmol, 1.44 g | C(C1=CC=CC=C1)NC(N[C@@H](CC(=O)O)C)=O | C12H16N2O3
reactant | EDCI | 1.17 g, 1.2 eq | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 0.93 g, 1.2 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIEA | 12.2 mmol, 2.13 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(3-Benzyl-ureido)-N-{2-(4-tert-butoxy-phenyl)-1-[(2,2-diethoxy-ethyl)-(1H-indazol-7-ylmethyl)-carbamoyl]-ethyl}-butyramide | C(C1=CC=CC=C1)NC(NC(CC(=O)NC(CC1=CC=C(C=C1)OC(C)(C)C)C(N(CC=1C=CC=C2C=NNC12)CC(OCC)OCC)=O)C)=O | C39H52N6O6
